US04285938
6-Methyl-7,8-dihydroxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide (21 g, German patent application No. 2849766) in toluene-acetonitrile is reacted with 50 ml of trifluoroacetic anhydride. The N-protected product is isolated by concentration in vacuo. This crude material (11 g) is reacted with 12 g of potassium fluoride in dimethylformamide then with 7.2 g of dibromomethane at 100° for 6 hours. The mixture is evaporated and the residue purified as described in Example 1 to give 6-methyl-7,8-methylenedioxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine trifluoroacetamide.

reactant | 6-Methyl-7,8-dihydroxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.CC1=C(C(=CC=2C(CNCCC21)C2=CC=C(C=C2)O)O)O
reactant | trifluoroacetic anhydride | 50 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium fluoride | 12 g | [F-].[K+]
reactant | dibromomethane | 7.2 g | BrCBr | CH2Br2
solvent | toluene-acetonitrile | C=1(C(=CC=CC1)CC#N)C | C9H9N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-methyl-7,8-methylenedioxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine trifluoroacetamide | FC(C(=O)N)(F)F.CC1=C2C(=CC=3C(CNCCC31)C3=CC=C(C=C3)O)OCO2 | InChI=1S/C18H19NO3.C2H2F3NO/c1-11-14-6-7-19-9-16(12-2-4-13(20)5-3-12)15(14)8-17-18(11)22-10-21-17;3-2(4,5)1(6)7/h2-5,8,16,19-20H,6-7,9-10H2,1H3;(H2,6,7)
